* C:\Users\alex_\Documents\IKP\HYDRA\HYDRA_VMM3_Adapter\Spartan7_TriggerLogic\Clock_Buffers_1-16\spice\PDN.asc
V1 N005 0 3.3 AC 1
C6 N002 0 100n Rser={ESR_100n} Lser={ESL_100n}
V3 N001 0 3.3 AC 1
C7 N002 0 1µ Rser={ESR_1u} Lser={ESL_1u}
C8 N004 0 100n Rser={ESR_100n} Lser={ESL_100n}
C9 N004 0 1µ Rser={ESR_1u} Lser={ESL_1u}
C10 N003 0 100n Rser={ESR_100n} Lser={ESL_100n}
C11 N003 0 1µ Rser={ESR_1u} Lser={ESL_1u}
L1 N001 N002 0.5n
L2 N001 N004 0.4n
L3 N001 N003 0.3n
C3 N006 0 100n Rser=10m Lser=0.8n
C4 N006 0 1µ Rser=10m Lser=1.5n
C5 N008 0 100n Rser=10m Lser=0.8n
C12 N008 0 1µ Rser=10m Lser=1.5n
C13 N007 0 100n Rser=10m Lser=0.8n
C14 N007 0 1µ Rser=10m Lser=1.5n
L4 N005 N006 0.5n
L5 N005 N008 0.4n
L6 N005 N007 0.3n
V2 N009 0 3.3 AC 1
C2 N010 0 33µ Rser=70m Lser=1.8n
L7 N009 N010 0.8n
C1 N010 0 1µ Rser=10m Lser=1.8n
.ac dec 1000 1k 800meg
* ESR 1uF {ESR_1u} mOhm
* ESR 1uF 10 mOhm
.param ESL_100n=0.8n
.param ESR_100n=10m
.param ESL_1u=1.5n
.param ESR_1u=50m
.backanno
.end
